US03932445
A mixture of 9.86 (0.05 mole of 5-methyl-2-phenyl-4-imidazoleacetonitrile and 15 ml of concentrated sulfuric acid is stirred and warmed on a steam bath until solution is complete (about 25 minutes). The warm mixture is poured onto excess ice and basified with a slight excess of concentrated aqueous ammonia. Recrystallization from ethanol (95%)-water affords the product, 5-methyl-2-phenyl-4-imidazoleacetamide hydrate, m.p. 186°-188°C. The melting point can be changed to 202°-4°C by thoroughly grinding in an agate mortar. The product can also be made to melt over the range of about 186°-204°C by very slowly raising the oilbath temperature. Treatment with mineral acid, e.g., sulfuric or hydrobromic acid, affords the corresponding acid addition salt.

reactant | 5-methyl-2-phenyl-4-imidazoleacetonitrile | 0.05 mole | CC1=C(N=C(N1)C1=CC=CC=C1)CC#N | C12H11N3
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 5-methyl-2-phenyl-4-imidazoleacetamide hydrate | O.CC1=C(N=C(N1)C1=CC=CC=C1)CC(=O)N | InChI=1S/C12H13N3O.H2O/c1-8-10(7-11(13)16)15-12(14-8)9-5-3-2-4-6-9;/h2-6H,7H2,1H3,(H2,13,16)(H,14,15);1H2
